US07365231B2
A mixture of 2.00 g (6.26 mmol) of 2,2-bis(4-hydroxyphenyl)adamantane, 2.00 g (12.7 mmol) of 5-fluoro-2-nitrophenol, 1.70 g (12.3 mmol) of anhydrous K2CO3, and 50 mL of dry DMF was reflux for 12 h under nitrogen. The mixture was allowed to cool and subsequently poured into 500 mL of distilled water. The resulting solution was acidied by concentrated hydrogen chloride to pH=3.5˜4.0. The precipitated product was collected, washed thoroughly with water until neutral, and then dried to give 2.75 g (73.9%) of 2,2-bis(4-(3-hydroxy-4-nitrophenoxy)phenyl)adamantane. mp 248˜250° C.; Elemental Anal. Calcd. for C34H30N2O8: C, 68.69; H, 5.05; N, 4.71. Found: C, 68.58; H, 5.10; N, 4.68. MS (EI) m/z 594 (M+, 100); IR (KBr): 3402, 2896, 2868, 1576, 1322 cm−1.

reactant | 2,2-bis(4-hydroxyphenyl)adamantane | 6.26 mmol, 2.00 g | OC1=CC=C(C=C1)C1(C2CC3CC(CC1C3)C2)C2=CC=C(C=C2)O | C22H24O2
reactant | 5-fluoro-2-nitrophenol | 12.7 mmol, 2.00 g | FC=1C=CC(=C(C1)O)[N+](=O)[O-] | C6H4FNO3
reactant | K2CO3 | 12.3 mmol, 1.70 g | C(=O)([O-])[O-].[K+].[K+]
reactant | hydrogen chloride | Cl | ClH
solvent | water | 500 mL | O | H2O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 2,2-bis(4-(3-hydroxy-4-nitrophenoxy)phenyl)adamantane | 2.75 g, 73.9% | OC=1C=C(OC2=CC=C(C=C2)C2(C3CC4CC(CC2C4)C3)C3=CC=C(C=C3)OC3=CC(=C(C=C3)[N+](=O)[O-])O)C=CC1[N+](=O)[O-] | C34H30N2O8
